US08039493B2
A mixture of N-benzyl-N-{2-[N′-(3-methanesulfonyl-benzoyl)-hydrazino]-2-oxo-ethyl}-2-trifluoromethyl-benzenesulfonamide (111 mg) and phosphorus oxychloride (1.5 g) was stirred for 18 h at 110° C. and then was concentrated under reduced pressure. The product was purified by chromatography (SiO2, cyclohexane/ethyl acetate 1:1 to ethyl acetate) to give N-benzyl-N-[5-(3-methanesulfonyl-phenyl)-[1,3,4]oxadiazol-2-ylmethyl]-2-trifluoromethyl-benzenesulfonamide (74 mg) as a colorless foam. MS: 552.3 ([M+H]+)

reactant | N-benzyl-N-{2-[N′-(3-methanesulfonyl-benzoyl)-hydrazino]-2-oxo-ethyl}-2-trifluoromethyl-benzenesulfonamide | 111 mg | C(C1=CC=CC=C1)N(S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F)CC(=O)NNC(C1=CC(=CC=C1)S(=O)(=O)C)=O | C24H22F3N3O6S2
reactant | phosphorus oxychloride | 1.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | N-benzyl-N-[5-(3-methanesulfonyl-phenyl)-[1,3,4]oxadiazol-2-ylmethyl]-2-trifluoromethyl-benzenesulfonamide | 74 mg | C(C1=CC=CC=C1)N(S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F)CC=1OC(=NN1)C1=CC(=CC=C1)S(=O)(=O)C | C24H20F3N3O5S2
